US04242518
17.4 parts of 3-hydroxy-5-methyl-dihydrothiophene-4-carboxylic acid methyl ester are dissolved in 100 parts by volume of methylene chloride. 14.9 parts of sulfuryl chloride in 20 parts by volume of methylene chloride are added in the course of 30 minutes at 10° C., whilst passing nitrogen into the mixture. The end product is isolated from the reaction mixture by the method described in Example 1c. 12.9 parts (75% of theory) of 3-hydroxy-5-methyl-thiophene-4-carboxylic acid methyl ester of boiling point 67°-70° C./0.025 mbar are obtained.

reactant | 3-hydroxy-5-methyl-dihydrothiophene-4-carboxylic acid methyl ester | COC(=O)C=1C(CSC1C)O | C7H10O3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-5-methyl-thiophene-4-carboxylic acid methyl ester | 75% | COC(=O)C=1C(=CSC1C)O | C7H8O3S
